US05047518
1,6-Anhydro-3-deoxy-2-O-methyl-β-D-ribo-hexopyranose
A solution of this compound (9.6 g) in bis-(2-methoxyethyl) ether (100 ml) containing anhydrous p-toluenesulphonic acid (500 mg) was heated under reflux, while passing a stream of nitrogen through the condenser, for 1 h. The cooled solution was neutralised with triethylamine and evaporated at 50° C. and 1 torr to a dark brown oil. Purification by flash chromatography on silica gel gave the title compound (4.5 g, 57%), identical by melting point, optical rotation, 1H-nmr, and 13C-nmr to the compound described in Preparative Example 1.

reactant | p-toluenesulphonic acid | 500 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | bis-(2-methoxyethyl) ether | 100 ml | COCCOCCOC | C6H14O3
product | 1,6-Anhydro-3-deoxy-2-O-methyl-β-D-ribo-hexopyranose | 4.5 g, 57% | CO[C@H]1[C@H]2O[C@@H]([C@H](C1)O)CO2 | C7H12O4
